US06492383B1
2-[2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-thiazol-5-yl]-propan-2-ol (129 mg, 0.42 mmol), 2-methyl-5-aminoindole (72 mg, 0.50 mmol), potassium carbonate (138 mg. 8.84 mmol), and triethylamine (0.12 mL, 0.84 mmol) were dissolved in 2 mL of t-butyl alcohol and 2 mL of dichloroethane and the solution was heated to 85° C. After allowing the reaction to go dry overnight solvent was added along with an additional 36 mg of the indole an the solution was heated an additional 18 hours. Chromatography of the residue with 20% methanol:methylene chloride afforded 166 mg (40%) of 2-{2-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-thiazol-5-yl}-propan-2-ol. 1H NMR (400 MHz, CD3OD) δ8.13 (d, 1H), 7.71 (s, 1H), 7.62 (s, 1H), 7.35 (d, 1H), 7.30 (d, 1H), 6.99 (d, 1H), 6.64 (d, 1H), 6.13 (s, 1H), 2.43 (s, 3H), 1.65 (s, 6H). LC-MS: 421 (MH+); HPLC RT: 4.75 min.

reactant | 2-[2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-thiazol-5-yl]-propan-2-ol | 0.42 mmol, 129 mg | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=CN2)C(C)(C)O | C13H11ClN2OS2
reactant | 2-methyl-5-aminoindole | 0.50 mmol, 72 mg | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | potassium carbonate | 8.84 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 0.84 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | t-butyl alcohol | 2 mL | C(C)(C)(C)O | C4H10O
product | 2-{2-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-thiazol-5-yl}-propan-2-ol | 166 mg, 40% | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C=2SC(=CN2)C(C)(C)O | C22H20N4OS2
